US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(6-piperazin-1-yl-purin-9-yl)phenyl]urea hydrochloride (Table 2, Compound No. 6)
The title compound can be synthesized from 6-chloropurine, piperazine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 35.

reactant | 6-chloropurine | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(6-piperazin-1-yl-purin-9-yl)phenyl]urea hydrochloride | Cl.ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)N1CCNCC1)C(F)(F)F | InChI=1S/C23H20ClF3N8O.ClH/c24-18-6-3-15(11-17(18)23(25,26)27)33-22(36)32-14-1-4-16(5-2-14)35-13-31-19-20(29-12-30-21(19)35)34-9-7-28-8-10-34;/h1-6,11-13,28H,7-10H2,(H2,32,33,36);1H
